US04749791
16.7 g of 6-fluoro-3,4-dihydro-2(1H)-naphthalenone were boiled at reflux for 2.5 hours in 200 ml of benzene and 8.4 ml of pyrrolidine in the presence of 0.35 g of anhydrous p-toluenesulphonic acid. The crude 1-(6-fluoro-3,4-dihydro-2-naphthyl)pyrrolidine obtained was, without further purification, treated with 10.8 g of acrylamide and 0.5 g of p-toluenesulphonic acid. The mixture was heated under nitrogen to 100° for 2 hours and to 150° for 2 hours. The reaction mixture was dissolved in 180 ml of chloroform and washed with water. The organic phase was filtered over 150 g of silica gel (particle size 0.2-0.5 mm) while eluting with chloroform. After recrystallization from ethyl acetate there was obtained 8-fluoro-1,4,5,6-tetrahydrobenzo[h]quinolin-3(2H)-one of melting point 223°-224°.

reactant | 6-fluoro-3,4-dihydro-2(1H)-naphthalenone | 16.7 g | FC=1C=C2CCC(CC2=CC1)=O | C10H9FO
reactant | pyrrolidine | 8.4 ml | N1CCCC1 | C4H9N
reactant | p-toluenesulphonic acid | 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 8-fluoro-1,4,5,6-tetrahydrobenzo[h]quinolin-3(2H)-one | FC=1C=CC2=C(CCC=3CC(CNC23)=O)C1 | C13H12FNO
